US06576643B2
c) (S)-10,11-Dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
To a stirred solution of ethyl (S)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (29.20 g, 68 mmol) in dioxane (350 mL) was added aqueous 1.0 N NaOH (110 mL, 110 mmol). The cloudy reaction was stirred at 50° C. in an oil bath for 24 h, then the resulting homogeneous solution was neutralized with aqueous 1.0 N HCl (110 mL, 110 mmol). The solution was concentrated to near dryness by rotary evaporation to precipitate out the product. The supernatant was decanted off and the remaining gummy solid was dried under vacuum and redissolved in 1:1 methanol/CHCl3. The clear solution was then reconcentrated by rotary evaporation and thoroughly dried under vacuum. The remaining solid was triturated with a small volume of water, filtered and dried under vacuum to give the title compound (26.85 g, 94%) as an off-white powder: HPLC (Hamilton PRP-1®, 35% CH3CN/H2O containing 0.1% TFA) k′=2.88; 1H NMR (400 MHz, DMSO-d6) δ7.94 (dd, J=4.7, 1.6 Hz, 1H), 7.38 (m, 1 H), 7.18 (d, J=7.3 Hz, 1H), 7.14 (d, J=3.9 Hz, 2H), 7.08 (m, 1H), 6.97 (d, J=8.4 Hz, 1H),6.83 (d, J=8.6 Hz, 1H), 6.78 (br s, 1H), 6.68 (dd, J=8.3. 2.6 Hz, 1H), 6.50 (d, J=8.3 Hz, 1H), 6.47 (dd, 1H), 4.20 (d, J=14.6 Hz, 1H), 4.00 (t, 2 H), 3.88 (d, J=14.6 Hz, 1 H), 3.67 (m, 1H), 3.37 (m, 1 H), 3.20 (dd, J=1.2, 4.4 Hz, 1H), 2.83 (dd, J=15.2, 10.1 Hz, 1H), 2.60 (dd, J=15.9, 5.3 Hz, 1H), 2.50 (dd, 1H), 1.95 (m, 2 H); MS (ES) m/e 403.3 (M+H)+ Anal. Calcd for C25H26N2O3.H2O: C, 71.41; H, 6.71; N, 6.66. Found: C, 71.21; H, 6.53: N, 6.54.

reactant | ethyl (S)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 68 mmol, 29.20 g | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
reactant | NaOH | 110 mmol, 1.0 N, 110 mL | [OH-].[Na+]
reactant | HCl | 110 mmol, 1.0 N, 110 mL | Cl | ClH
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
product | (S)-10,11-Dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | 26.85 g, 94% | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)O)C=CC=C3)C1 | C25H26N2O3
